US07238808B2
6-Methyl-5-[7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (355 mg, 1.0 mmol) and commercially available 6-amino-3-bromo-2-methylpyridine (168 mg, 1.0 mmol) according to general procedure II. Obtained as a dark-red solid (90 mg, 19%). MS (ISP) 462.2 [(M+H)+]; mp 251–254° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 6-amino-3-bromo-2-methylpyridine | 1.0 mmol, 168 mg | NC1=CC=C(C(=N1)C)Br | C6H7BrN2
product | 6-Methyl-5-[7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine | CC1=C(C=CC(=N1)N)C#CC=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C22H13F6N5
